US09034866B2
To a stirred solution of 9-Bromo-4-[1-methoxycarbonyl-meth-(E)-ylidene]-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (70 mg, 0.17 mmol) in EtOAc (15 mL), 10% Pd/C (1% H2O) (30 mg) was added. The reaction mixture was degassed with H2. The mixture was stirred at 50° C. under 50 Psi of H2 overnight. Then the mixture was filtered thought Celite, and the filtrate was concentrated in vacuo, and purified by flash column chromatography to afford 9-Bromo-4-methoxycarbonylmethyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (60 mg, 85%) as a light yellow solid. 1H NMR (400 MHz, CDCl3): δ 8.75 (d, J=2.5 Hz, 1H), 7.38 (dd, J1=8.6 Hz, J2=2.5 Hz, 1H), 6.98 (d, J=8.6 Hz, 1H), 4.62 (dd, J1=12.2 Hz, J2=3.7 Hz, 1H), 4.07 (m, 1H), 4.04 (s, 3H), 3.98 (m, 1H), 2.79 (s, 3H), 2.88 (m, 1H); LC-MS (ESI & APCI): 414.4 (M+2).

reactant | 9-Bromo-4-[1-methoxycarbonyl-meth-(E)-ylidene]-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.17 mmol, 70 mg | COC(=O)C=1SC=2/C(/COC3=C(C2N1)C=C(C=C3)Br)=C/C(=O)OC | C16H12BrNO5S
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 9-Bromo-4-methoxycarbonylmethyl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 60 mg, 85% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)CC(=O)OC | C16H14BrNO5S
